US07071201B2
Example 127: Synthesis of 1-[1-(4-fluorophenethyl)piperdin-4-yl]-6-acetylindoline
A 2.5 M solution (1.5 ml) of n-butyllithium in hexane was added dropwise at −78° C. into a solution (30 ml) of 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-bromoindoline (1.0 g) in tetrahydrofuran over 5 min. After 10 min, dimethylacetamide (0.34 ml) was added thereto and the resultant mixture was warmed to room temperature. Next, a saturated aqueous solution of ammonium chloride and ethyl acetate were added thereto to and the layers were separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by NH-silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (250 mg) as a yellow powder (yield: 27%).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-bromoindoline | 30 ml, 1.0 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)Br)C=C1 | C21H24BrFN2
reactant | dimethylacetamide | 0.34 ml | CC(=O)N(C)C | C4H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[1-(4-fluorophenethyl)piperdin-4-yl]-6-acetylindoline | 250 mg, yield: 27% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)C(C)=O)C=C1 | C23H27FN2O
